US07135486B1
4-{2-Amino-6-[(2-amino-2-oxoethyl)sulfanyl]-3,5-dicyano-4-pyridinyl}-benzoic acid
72 mg (0.18 mmol) of 2-[4-(2-amino-3,5-dicyano-6-sulfanyl-4-pyridinyl)benzoic acid N-methylmorpholinium salt together with 59.2 mg (0.27 mmol) of bromoacetamide and 60.9 mg (0.72 mmol) of NaHCO3 are stirred in 0.5 ml of DMF overnight. After filtration, the reaction solution is prepurified by preparative HPLC. The isolated fraction is reconcentrated under reduced pressure and the residue is purified by preparative thin-layer chromatography.

reactant | 4-(2-amino-3,5-dicyano-6-sulfanyl-4-pyridinyl)benzoic acid N-methylmorpholinium salt | C[NH+]1CCOCC1.NC1=NC(=C(C(=C1C#N)C1=CC=C(C(=O)[O-])C=C1)C#N)S
reactant | bromoacetamide | 0.27 mmol, 59.2 mg | BrCC(=O)N | C2H4BrNO
reactant | NaHCO3 | 0.72 mmol, 60.9 mg | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 4-{2-Amino-6-[(2-amino-2-oxoethyl)sulfanyl]-3,5-dicyano-4-pyridinyl}-benzoic acid | NC1=NC(=C(C(=C1C#N)C1=CC=C(C(=O)O)C=C1)C#N)SCC(=O)N | C16H11N5O3S
